US05200422
1,3-dihydro-1-(3,5-dichloro-2-methoxyphenyl)-2H-benzimidazol-2-one
To a solution of 2-ethoxycarbonylamino-N-(3,5-dichloro-2-methoxyphenyl)-aniline (1.94 g, 5 4 mmol) in absolute ethanol (20 ml) was at room temperature added small pieces of sodium (0.25 g, 10.8 mmol) The mixture was heated at reflux for 11/2 hours after all the sodium has reacted The mixture was after cooling to room temperature poured into ice water (50 ml) and after stirring for 15 minutes the crystalline product was collected by filtration yielding the title compound as slightly pink crystals, M.p. 202°-203° C.

reactant | 2-ethoxycarbonylamino-N-(3,5-dichloro-2-methoxyphenyl)-aniline | 4 mmol, 1.94 g | C(C)OC(=O)NC1=C(NC2=C(C(=CC(=C2)Cl)Cl)OC)C=CC=C1 | C16H16Cl2N2O3
reactant | sodium | 10.8 mmol, 0.25 g | [Na] | Na
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1,3-dihydro-1-(3,5-dichloro-2-methoxyphenyl)-2H-benzimidazol-2-one | ClC=1C(=C(C=C(C1)Cl)N1C(NC2=C1C=CC=C2)=O)OC | C14H10Cl2N2O2
